US05536821
N -1-trifluoroacetylhexanediamine, (CF3CONH(CH2)6NH2) is prepared by adding ethyltrifluoroacetate (1.2 ml, 10 mmol) dropwise over one hour to a stirred mixture of hexanediamine (1.16 g; 10 mmol) and triethylamine (1 ml; 7 mmol) in 20 ml methanol. The solution is stirred overnight. After removal of solvents, the reaction mixture is flash chromatographed on silica using 0-25% methanol in dichloromethane. The fractions containing the desired product are pooled and concentrated to give a colorless powder (1.1 gm, yield--42.6%); melting point 52C°; 1H NMR (CDCl3, d, TMS=) 0.00) 7.1-7.2 (m, 3H, NH2, NH) 3.2-3.3 (m, 2H, CO--NH--CH2), 2.8-2.9 (m 2H, CH2 --NH2) 1.2-1.6 (m, 8H, --CH--(CH2)2 --CH2 --).

reactant | ethyltrifluoroacetate | 10 mmol, 1.2 ml | C(C)OC(C(F)(F)F)=O | C4H5F3O2
reactant | hexanediamine | 10 mmol, 1.16 g | C(CCCCC)(N)N | C6H16N2
reactant | triethylamine | 7 mmol, 1 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
product | CF3CONH(CH2)6NH2 | C(F)(F)(F)C(=O)NCCCCCCN | C8H15F3N2O
